US04042697
6-Ethoxy-2-(2-propynyl)isoquinolinium iodide
6-Ethoxyisoquinoline (500 mg.), propargyl bromide (500 mg.) and sodium iodide (300 mg.) were heated under reflux in acetonitrile (30 ml) for 5 hrs. The mixture was evaporated to dryness, the residue taken up in hot water (5 ml) and a saturated aqueous solution (5 ml) of sodium iodide added to the cooled filtrate. The solid that precipitated was recrystallised from isopropanol/ether, m.p. 121°-123°.

reactant | 6-Ethoxyisoquinoline | 500 mg | C(C)OC=1C=C2C=CN=CC2=CC1 | C11H11NO
reactant | propargyl bromide | 500 mg | C(C#C)Br | C3H3Br
reactant | sodium iodide | 300 mg | [I-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 6-Ethoxy-2-(2-propynyl)isoquinolinium iodide | [I-].C(C)OC=1C=C2C=C[N+](=CC2=CC1)CC#C | InChI=1S/C14H14NO.HI/c1-3-8-15-9-7-12-10-14(16-4-2)6-5-13(12)11-15;/h1,5-7,9-11H,4,8H2,2H3;1H/q+1;/p-1
